US06787536B2
4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid methyl ester
Prepared according to the method for the preparation of 2-[4-(4-bromophenyl)piperazine-1-sulfonylmethyl]-3-methyl-butyric acid ter-butyl ester, from 1-(4-pyridin-3-yl-phenyl)piperazine (0.18 g) and 4-chlorosulfonylmethyl tetrahydropyran-4-carboxylic acid methyl ester (0.23 g), to yield the title compound as a white solid (0.19 g, 55%).

reactant | 2-[4-(4-bromophenyl)piperazine-1-sulfonylmethyl]-3-methyl-butyric acid ter-butyl ester | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Br)=O | C20H31BrN2O4S
reactant | 1-(4-pyridin-3-yl-phenyl)piperazine | 0.18 g | N1=CC(=CC=C1)C1=CC=C(C=C1)N1CCNCC1 | C15H17N3
reactant | 4-chlorosulfonylmethyl tetrahydropyran-4-carboxylic acid methyl ester | 0.23 g | COC(=O)C1(CCOCC1)CS(=O)(=O)Cl | C8H13ClO5S
product | 4-[4-(4-Pyridin-3-yl-phenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4-carboxylic acid methyl ester | 0.19 g, 55% | COC(=O)C1(CCOCC1)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C=NC=CC1 | C23H29N3O5S
